US05659084
Preparation of N-[(2-(8-phenyloctyl)phenyl)-methylene]-1,1-dimethylethanamine
A stirred solution of 2-(8-phenyloctyl)benzaldehyde (10 g, 0.034 mol), and t-butylamine (4.96 g, 0.068 mol) in toluene (100 mL) was refluxed under standard Dean-Stark conditions for 16 h. The solution was evaporated to an oil which was vacuum distilled (bp 260° C., 0.15 mm Hg) to afford the titled product (11.1 g, 94%): GC RT 19.8 min (DB-1, 30 m×0.53 mm, program, 100° C. for 5 min, 100°-260° C. at 15° C./min, hold at 260° C. for 12 min.); 1H NMR (CDCl3, 400 MHz) δ 8.58 (s, 1H), 7.86 (d, J=7.5 Hz, 1H), 7.29-7.13 (m, 8H), 2.79 (t, J=7.5 Hz, 2H), 2.58 (t, J=7.5 Hz, 2H), 1.59-1.51 (m, 12H), 1.30 (s, 9H).

reactant | 2-(8-phenyloctyl)benzaldehyde | 0.034 mol, 10 g | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
reactant | t-butylamine | 0.068 mol, 4.96 g | C(C)(C)(C)N | C4H11N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(2-(8-phenyloctyl)phenyl)-methylene]-1,1-dimethylethanamine | 11.1 g, 94% | C1(=CC=CC=C1)CCCCCCCCC1=C(C=CC=C1)C=NC(C)(C)C | C25H35N
